US05492905
Example 40. 3-Methoxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
3-Methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.5 g) and anhydrous lithium chloride (0.63 g) were added to dry tetrahydrofuran (10 mL), and the mixture was cooled to -70° C. To this was added diisopropylamine (380 mL), followed by butyllithium (2.2 mL, 2.5 M in hexanes); and the mixture was warmed to -20° C. After 30 minutes, methyl iodide (307 mL) was added and the mixture cooled to -10° C. for 10 minutes. The mixture was diluted with water, acidified with 2 N hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried and evaporated. The solid was purified by chromatography, with ethyl acetate:toluene (1:1) as the eluent, and recrystallized from hot toluene to give the methylated product as a white solid (0.367 g); NHR: 2.03 (s,3); MS(EI): m/z=217(M).

reactant | 3-Methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.5 g | COC1=CC(C2=C(NC1=O)C=CC=C2)=O | C11H9NO3
reactant | lithium chloride | 0.63 g | [Cl-].[Li+]
reactant | diisopropylamine | 380 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 2.5 M, 2.2 mL | C(CCC)[Li]
reactant | methyl iodide | 307 mL | CI | CH3I
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-Methoxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.367 g | COC1=C(C(C2=C(NC1=O)C=CC=C2)=O)C | C12H11NO3
